US04897406
A mixture of 0.12 g of the isomer A of ethyl 4-[3-(4-oxo-2-thioxo-5-thiazolidinylidene)-1-buten-1-yl]phenoxyacetate prepared as described in Example 13, 5 ml of water and 1 ml of a 5% aqueous sodium hydroxide solution was stirred at room temperature for one hour. To the reaction mixture was added 10% hydrochloric acid to precipitate crystals. The crystals were recovered by filtration and washed with methanol to give 0.07 g of the isomer A of the desired 4-[3-(4-oxo-2-thioxo-5-thiazolidinylidene)-1-buten-1-yl]phenoxyacetic acid and also 0.07 g of the isomer B thereof.

reactant | ethyl 4-[3-(4-oxo-2-thioxo-5-thiazolidinylidene)-1-buten-1-yl]phenoxyacetate | O=C1NC(SC1=C(C=CC1=CC=C(OCC(=O)OCC)C=C1)C)=S | C17H17NO4S2
reactant | sodium hydroxide | [OH-].[Na+]
reactant | hydrochloric acid | Cl | ClH
solvent | water | 5 ml | O | H2O
product | 4-[3-(4-oxo-2-thioxo-5-thiazolidinylidene)-1-buten-1-yl]phenoxyacetic acid | O=C1NC(SC1=C(C=CC1=CC=C(OCC(=O)O)C=C1)C)=S | C15H13NO4S2
